US07713979B2
Toluene-4-sulfonic acid 1-cyclohexyl-4,4-dimethyl-2-oxo-pyrrolidin-3-yl ester
Place N-cyclohexyl-2,4-dihydroxy-3,3-dimethyl-butyramide (2.178 g, 9.51 mmol), triethylamine (2.7 ml, 19.31 mmol) and toluenesulfonyl chloride (3.70 g, 19.21 mmol) in CH2Cl2 (50 mL) at 0° C. Stir for 30 minutes at 0° C. Quench with hexane and warm to room temperature. Filter white precipitate. Strip the solvent and dissolve the residue in 40 ml of dry THF under the nitrogen atmosphere. Add sodium hydride (3.4 g, 85 mmol) and stir at room temperature for 12 hours. Quench the reaction with methanol/water mixture. Extract with ethyl acetate. Wash the extract with brine and dry over magnesium sulfate. Purification by flash chromatography affords 1.25 g (36%) of the title compound: Mass spectrum (apci) m/z=366 (M+H).

reactant | N-cyclohexyl-2,4-dihydroxy-3,3-dimethyl-butyramide | 9.51 mmol, 2.178 g | C1(CCCCC1)NC(C(C(CO)(C)C)O)=O | C12H23NO3
reactant | triethylamine | 19.31 mmol, 2.7 ml | C(C)N(CC)CC | C6H15N
reactant | toluenesulfonyl chloride | 19.21 mmol, 3.70 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydride | 85 mmol, 3.4 g | [H-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-sulfonic acid 1-cyclohexyl-4,4-dimethyl-2-oxo-pyrrolidin-3-yl ester | 1.25 g, 36% | C1(CCCCC1)N1C(C(C(C1)(C)C)OS(=O)(=O)C1=CC=C(C=C1)C)=O | C19H27NO4S
